US05212195
To a solution of methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]acrylate (AF) (6.0 g) (prepared, e.g., as described in Preparation 22), in methylene chloride (200 ml) was added 5% palladium on carbon (1 g), and the resulting mixture was stirred under hydrogen at room temperature at atmospheric pressure for 4 hours. The reaction mixture was filtered through a Celite pad to remove catalyst, and evaporation of the filtrate gave methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionate (6.0 g), a compound of Formula (AG), as an oil.

reactant | methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]acrylate | 6.0 g | C(CCC)C=1N(C=C(C1)C=CC(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H26N2O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]propionate | 6.0 g | C(CCC)C=1N(C=C(C1)CCC(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H28N2O2
